.title KiCad schematic
v1 WS 0 pulse
v2 SCK 0 pulse
v3 SD 0 pwl
R1 SCK 0 1Meg
R2 WS 0 1Meg
R3 SD 0 1Meg
U1 SCK SCK_DIG adc_bridge_1
U2 WS WS_DIG adc_bridge_1
U3 SD SD_DIG adc_bridge_1
U4 SD_DIG SCK_DIG NULL NULL OUT_0 NULL d_dff
U5 OUT_0 SCK_DIG NULL NULL OUT_1 NULL d_dff
U6 OUT_1 SCK_DIG NULL NULL OUT_2 NULL d_dff
U7 OUT_2 SCK_DIG NULL NULL OUT_3 NULL d_dff
U8 OUT_3 SCK_DIG NULL NULL OUT_4 NULL d_dff
U9 OUT_4 SCK_DIG NULL NULL OUT_5 NULL d_dff
U10 OUT_5 SCK_DIG NULL NULL OUT_6 NULL d_dff
U11 OUT_6 SCK_DIG NULL NULL OUT_7 NULL d_dff
U12 OUT_0 VOUT_0 dac_bridge_1
U13 OUT_1 VOUT_1 dac_bridge_1
U14 OUT_2 VOUT_2 dac_bridge_1
U15 OUT_3 VOUT_3 dac_bridge_1
U16 OUT_4 VOUT_4 dac_bridge_1
U17 OUT_5 VOUT_5 dac_bridge_1
U18 OUT_6 VOUT_6 dac_bridge_1
U19 OUT_7 VOUT_7 dac_bridge_1
R4 VOUT_0 0 1Meg
R5 VOUT_1 0 1Meg
R6 VOUT_2 0 1Meg
R7 VOUT_3 0 1Meg
R8 VOUT_4 0 1Meg
R9 VOUT_5 0 1Meg
R10 VOUT_6 0 1Meg
R11 VOUT_7 0 1Meg
.end